US03954996
500 mg of finely pulverized Robenidine HCl was introduced to a previously melted 10 g of polyoxy ethylene triglyceride (Arlatone 289 - Atlas Corp.) The mixture was heated and stirred at 60°-80° until a fine paste was obtained. 66.6 ml of a solution prepared from 75 ml of polyethylene glycol (Carbowax 300) and 25 ml of propylene glycol was added and the mixture was stirred and heated at 60°-80° until a clear solution was obtained. After cooling to room temperature the solution was filtered. The solution had a concentration of 0.65 g of Robenidine HCl. 2.3 ml of said composition in 1 L of water yielded a concentration of 30 mg of Robenidine/ 1 L of water.

reactant | Robenidine HCl | C=1C(=CC=C(C1)Cl)/C=N/NC(=N)N/N=C/C2=CC=C(C=C2)Cl.Cl
reactant | propylene glycol | 25 ml | C(C(C)O)O | C3H8O2
product | Robenidine | 1 L | C=1C(=CC=C(C1)Cl)/C=N/NC(=N)N/N=C/C2=CC=C(C=C2)Cl | C15H13Cl2N5
